US07053212B2
N-(3-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide
To a solution of N-[4-(2-bromo-ethoxy)-phenyl]-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide (0.070 g, 0.12 mmol) in 2 mL tetrahydrofuran was added piperidine (0.12 mL, 1.21 mmol). The reaction mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted to a volume of 30 mL with ethyl acetate and was washed with saturated aqueous sodium bicarbonate (2×15 mL) and saturated aqueous sodium chloride (1×15 mL). The organic layer was dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography (5% methanol/methylene chloride) afforded 0.010 g of an oil. The oil was further purified by preparative TLC (0.5 mm silica gel layer, eluting with 10% methanol/methylene chloride) to afford 0.003 g of the title compound. MS 509.2 (M+1)+

reactant | N-[4-(2-bromo-ethoxy)-phenyl]-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.12 mmol, 0.070 g | BrCCOC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1 | C29H34BrNO5S
reactant | piperidine | 1.21 mmol, 0.12 mL | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | 0.010 g | OC=1C=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)OCCN2CCCCC2)C=CC1 | C29H36N2O4S
